US03948906
3-Isopropoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid
3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylic acid (12.0 g., 25.8 m.mole.) was refluxed in isopropanol (100 ml.) for 45 minutes. After filtration through a pad of Kieselguhr, the isopropanol solution was poured into water (1000 ml.) and the pH adjusted to 8.5. The solution was extracted with ethyl acetate (2 × 100 ml.) and the extracts discarded. The solution was then acidified to pH 1.5 with 2N-hydrochloric acid and extracted with ethyl acetate (3 × 100 ml.). The ethyl acetate extracts were dried over magnesium sulphate and evaporated. The residue (8.5 g.) was dissolved in a mimimum of hot ethanol, from which the title compound separated on cooling (1.5 g., 15%). This material recrystallised from ethanol as colourless prisms, m.p. 169°-171° (d), [α]D28 + 87° (c 1.0, tetrahydrofuran), λλmax (ethanol) 237 nm (ε 14,500), 260 nm (ε 7,900), νmax (Nujol) 1775 (β-lactam), 1728 (COOH), 1668 and 1535 cm.-1 (CONH), N.M.R. (D2O, with sodium bicarbonate) 5.64 and 5.95 (quartet: J = 16 Hz, -CH2OCH(CH3)2), 6.31, 8.87τ )-CH2 -OCH (CH3)2 respectively). (Found: C, 51.6; H, 5.1; N, 6.7; S, 16.3. C17H20N2O5S2 requires C, 51.5; H, 5.1; N, 6.1; S, 16.2%). Rf 0.32 (system B), 0.65 (system C).

reactant | 3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylic acid | 12.0 g | ClC(C(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O)Cl | C16H14Cl2N2O6S2
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 3-Isopropoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid | C(C)(C)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C17H20N2O5S2
